// Nanopore + CT TIA Testbench
// Sebastian Claudiusz Magierowski  Apr 10 2021 — standalone Spectre port May 3 2026
//
// Topology:
//   sm_nanoporeG (bias/out/ctrl) driven by Vbias/Vref DC bias.
//   Pore output current sensed by ideal CT TIA (VCVS op-amp, Cf+Rf feedback).
//   ctrl driven by exp_pulse_train_2 (exponentially-distributed random pulse train)
//   to emulate molecule translocation events.
//
//       ,-------------- Cm -----------------,
//       |                                   |
// (bias)-- Rp --(ndB)-- IG --(ndA)-- Ra --(out)
// (ctrl) ----------------'
//
//                 ,------Cf------,
//                 |------Rf------|
// Vctrl -----,    |              |
// Vbias -- PORE1 --- -OpAmp \    |
//                 |          \   |
//                 Ci          X--+-,
//                            /     |
// Vref  ------------ +OpAmp /      Cl
//
// Key design variables:
//   Nanopore : gv, Ravg, Rp, Ra, Cm
//   Biasing  : Vbias (cis), Vref (trans / TIA reference)
//   TIA      : Rf, Cf, Ci, Cl
//   Stimulus : ft (mean event rate), Tp=1/ft

simulator lang=spectre
    
ahdl_include "../../../../models/verilogA/sm_anrz.va"
include "../../netlist/nanopore.scs"

// -----------------------------------------------------------------------
// Parameters
// -----------------------------------------------------------------------
parameters \
    Cf=100f  Ci=100f  Cl=1p  Rf=1G   \
    Ravg=2.25G  Rp=1  Ra=1  gv=0.5  Cm=5p  \
    Vbias=600m  Vref=800m               \
    ft=1k  Tp=1/ft                      \
    tstop=10m  tstep=100n

// -----------------------------------------------------------------------
// Nanopore instance
// -----------------------------------------------------------------------
Vbias (bias 0) vsource dc=Vbias type=dc
Vref  (iplus 0) vsource dc=Vref  type=dc

XP1 (bias out ctrl) nanopore gv=gv Ravg=Ravg Rp=Rp Ra=Ra Cm=Cm

// -----------------------------------------------------------------------
// Pore output ammeter -> TIA virtual ground
// -----------------------------------------------------------------------
AMporeout (out net28) vsource mag=0 type=dc

// -----------------------------------------------------------------------
// CT TIA: ideal op-amp (VCVS) + Cf/Rf feedback + Ci/Cl parasitics
// -----------------------------------------------------------------------
OpAmp  (net034 0 iplus net28) vcvs gain=1e6
Iprobe (net034 out1)          iprobe
Cf     (net28 out1)           capacitor c=Cf
Rf     (net28 out1)           resistor  r=Rf
Ci     (net28 0)              capacitor c=Ci
Cl     (out1  0)              capacitor c=Cl

// -----------------------------------------------------------------------
// Stimulus: random exponential pulse train on ctrl
// -----------------------------------------------------------------------
Vrand (ctrl) exp_pulse_train_2 Tp=Tp seed=21 l_hi=1 l_lo=-1 tdel=0 \
    trise=1n tfall=1n

// -----------------------------------------------------------------------
// Simulation
// -----------------------------------------------------------------------
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 \
    temp=27 tnom=27 maxnotes=5 maxwarns=5

tran1 tran stop=tstop step=tstep errpreset=moderate annotate=status

save out1 AMporeout:p
saveOptions options save=selected
